US04367238
Sodium metal (0.7 g), dried ethanol (20 ml), 2-[2-methoxy-3-(o-tolylthio)phenyl]acetonitrile (7.7 g), ethyl carbonate (13 g) and toluene (50 ml) were treated in a similar manner to that of Example 22-(1) to give oily ethyl 2-cyano-2-[2-methoxy-3-(o-tolylthio)phenyl]acetate (9.4 g).

reactant | Sodium | 0.7 g | [Na] | Na
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | 2-[2-methoxy-3-(o-tolylthio)phenyl]acetonitrile | 7.7 g | COC1=C(C=CC=C1SC1=C(C=CC=C1)C)CC#N | C16H15NOS
reactant | ethyl carbonate | 13 g | C(OCC)([O-])=O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-cyano-2-[2-methoxy-3-(o-tolylthio)phenyl]acetate | 9.4 g | C(#N)C(C(=O)OCC)C1=C(C(=CC=C1)SC1=C(C=CC=C1)C)OC | C19H19NO3S
